US06114390
c) (R)-N-[[4-(Aminocarbonylmethyl)phenyl]methyl]-N2 -[(2-naphthyl)-carbonyl]-ornithinamide
Prepared analogously to Example 1d) but using glacial acetic acid/methanol=1/1 (v/v) as solvent instead of methanol, from (R)-N-[[4-(aminocarbonylmethyl)phenyl]methyl]-N2 -[(2-naphthyl)carbonyl]-N5 -(phenylmethoxycarbonyl)-ornithinamide by catalytic hydrogenation in the presence of palladium on activated charcoal in a yield of 86% of theory. Colourless, highly viscous oil which was used without any further purification.

reactant | methanol | CO | CH4O
reactant | (R)-N-[[4-(aminocarbonylmethyl)phenyl]methyl]-N2 -[(2-naphthyl)carbonyl]-N5 -(phenylmethoxycarbonyl)-ornithinamide | NC(=O)CC1=CC=C(C=C1)CNC([C@H](NC(=O)C1=CC2=CC=CC=C2C=C1)CCCNC(=O)OCC1=CC=CC=C1)=O | C33H34N4O5
solvent | acetic acid methanol | C(C)(=O)O.CO
catalyst | palladium on activated charcoal | [Pd] | Pd
product | (R)-N-[[4-(Aminocarbonylmethyl)phenyl]methyl]-N2 -[(2-naphthyl)-carbonyl]-ornithinamide | yield of 86% | NC(=O)CC1=CC=C(C=C1)CNC([C@H](NC(=O)C1=CC2=CC=CC=C2C=C1)CCCN)=O | C25H28N4O3
